US07262201B1
3-Phenyl-4,5-dihydro-1H-pyrazol-5-one (270 mg, 1.68 mmol), (J. Org. Chem., 1967, 32, 3321-3324), was added in portions over 10 minutes to a suspension of sodium hydride (70 mg, 1.68 mmol, prewashed with pentane) in DMF (3 ml) under nitrogen. After stirring for 1 hour at ambient temperature 4-chloro-7-(2-methoxyethoxy)quinazoline (160 mg, 0.67 mmol) was added and the mixture was heated for 1 hour at 60° C. After cooling, the mixture was diluted with saturated aqueous ammonium chloride solution and partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried (MgSO4) and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with methanol/methylene chloride (5/95). The volatiles were removed by evaporation, the residual solid was dissolved in methylene chloride and 3M ethereal hydrogen chloride (0.5 ml) was added. After removal of the solvent by evaporation, the residue was triturated with ether, collected by filtration and dried under vacuum to give 7-(2-methoxyethoxy)-4-(5-phenylpyrazol-3-yloxy)quinazoline hydrochloride (120 mg, 46%).

reactant | 3-Phenyl-4,5-dihydro-1H-pyrazol-5-one | 1.68 mmol, 270 mg | C1(=CC=CC=C1)C1=NNC(C1)=O | C9H8N2O
reactant | sodium hydride | 1.68 mmol, 70 mg | [H-].[Na+]
reactant | 4-chloro-7-(2-methoxyethoxy)quinazoline | 0.67 mmol, 160 mg | ClC1=NC=NC2=CC(=CC=C12)OCCOC | C11H11ClN2O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 7-(2-methoxyethoxy)-4-(5-phenylpyrazol-3-yloxy)quinazoline hydrochloride | 120 mg, 46% | Cl.COCCOC1=CC=C2C(=NC=NC2=C1)OC1=NNC(=C1)C1=CC=CC=C1 | InChI=1S/C20H18N4O3.ClH/c1-25-9-10-26-15-7-8-16-18(11-15)21-13-22-20(16)27-19-12-17(23-24-19)14-5-3-2-4-6-14;/h2-8,11-13H,9-10H2,1H3,(H,23,24);1H
